US08835462B2
To a suspension of methyltriphenylphosphonium bromide (346 mg, 0.969 mmol, 1.40 equiv) in anhydrous THF (7 mL) at −78° C. (dry ice/acetone) was added a 2.5 M solution of n-butyllithium in hexane (n-BuLi; 332 μL, 0.830 mmol, 1.20 equiv). The flask was removed from the cold bath for 25 min and then re-cooled to −78° C. In a separate vessel, tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(3-oxobutoxy)-1,5-dioxonan-3-yl)carbamate (311 mg, 0.692 mmol, 1.00 equiv) was dissolved in anhydrous THF (7 mL), cooled to −78° C., and transferred via cannula to the phosphonium ylide solution prepared above. The resulting light yellow suspension was stirred at −78° C. for 50 min and then transferred to a −50° C. bath (deficient dry ice/acetone) and stirred for 45 min. The suspension was slowly warmed to −20° C. over 1 h and then warmed to 0° C. (ice water bath) and stirred for 20 min. The reaction was quenched with ½ sat'd aq. ammonium chloride (NH4Cl; 20 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated to give a colorless oil. Purification by automated silica gel column chromatography (2-25% acetone in hexanes) provided tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-8-((3-methylbut-3-en-1-yl)oxy)-2-oxo-1,5-dioxonan-3-yl)carbamate (68 mg, 22%) as a sticky oil: IR (ATR) 2977, 2933, 2875, 1750, 1712, 1497, 1454, 1367, 1326, 1250, 1202, 1163, 1080, 1042, 1023 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.38-7.23 (m, 2H), 7.23-7.10 (m, 3H), 5.16 (d, J=8.2 Hz, 1H), 4.95 (dq, J=9.2, 6.4 Hz, 1H), 4.80 (s, 1H), 4.77-4.69 (m, 1H), 4.59 (q, J=7.4 Hz, 1H), 3.88 (dd, J=11.5, 7.3 Hz, 1H), 3.83-3.71 (m, 1H), 1.57-1.46 (m, 3H), 3.65 (dt, J=8.7, 7.0 Hz, 1H), 3.50-3.31 (m, 2H), 3.25 (dd, J=11.4, 7.3 Hz, 1H), 3.20-3.02 (m, 2H), 2.32 (t, J=6.9 Hz, 3H), 1.91 (s, 1H), 1.49 (d, J=6.4 Hz, 3H), 1.41 (s, 9H); 13C NMR (101 MHz, CDCl3) δ 172.27, 154.98, 142.31, 139.91, 129.15, 128.43, 126.12, 111.99, 85.31, 80.06, 75.48, 72.79, 72.30, 71.29, 52.93, 47.28, 38.33, 35.19, 28.28, 22.88, 18.80; HRMS-ESI (m/z) [M+Na]+ calc'd for C25H37NO6Na, 470.2513. found, 470.2522.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.830 mmol, 332 μL, 1.20 equiv | CCCCCC | C6H14
reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-2-oxo-8-(3-oxobutoxy)-1,5-dioxonan-3-yl)carbamate | 0.692 mmol, 311 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCCC(C)=O)C)=O)NC(OC(C)(C)C)=O | C24H35NO7
catalyst | methyltriphenylphosphonium bromide | 0.969 mmol, 346 mg, 1.40 equiv | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | tert-butyl ((3S,7S,8R,9S)-7-benzyl-9-methyl-8-((3-methylbut-3-en-1-yl)oxy)-2-oxo-1,5-dioxonan-3-yl)carbamate | 68 mg, 22% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCCC(=C)C)C)=O)NC(OC(C)(C)C)=O | C25H37NO6
